US09388189B2
b) N-(3-Bromo-5-fluorophenyl)-4-hydroxybenzenesulfonamide
N-(3-Bromo-5-fluorophenyl)-4-methoxybenzenesulfonamide (507 mg, 1.41 mmol) was treated with boron tribromide (1M in dichloromethane, 7.0 ml, 7 mmol) using dichloromethane (10 ml) as a solvent according to the method described in Example 23. The resulting crude was purified by flash chromatography using SP1® Purification System (0% to 40%, dichloromethane-ethyl acetate) to obtain 480 mg (99% yield) of the title compound. Purity: 100%

reactant | N-(3-Bromo-5-fluorophenyl)-4-methoxybenzenesulfonamide | 1.41 mmol, 507 mg | BrC=1C=C(C=C(C1)F)NS(=O)(=O)C1=CC=C(C=C1)OC | C13H11BrFNO3S
reactant | boron tribromide | 7 mmol, 1M, 7.0 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3-Bromo-5-fluorophenyl)-4-hydroxybenzenesulfonamide | 480 mg, 99% yield | BrC=1C=C(C=C(C1)F)NS(=O)(=O)C1=CC=C(C=C1)O | C12H9BrFNO3S
